US07235569B2
To a stirred solution of 2-naphtho[1,2-b]furan-3-yl ethanol (1.06 g, 5 mmol) in anhydrous THF (50 ml), triphenylphosphine (1.572 g, 6 mmol), iodine (1.518 g, 6 mmol) and imidazole (408 mg, 6 mmol) were added at room temperature. The reaction mixture was stirred at room temperature for 4 hrs and quenched with water. It was extracted with chloroform, washed well with 5% Na2S2O3 solution and the organic layer was dried over anhydrous MgSO4. It was filtered and concentrated. The residue was purified by silica-gel column chromatography by eluting it with 30% ethyl acetate:hexane. The product, namely 3-(2-iodo-ethyl)-naphtho[1,2-b]furan, was obtained as brown liquid. Yield: 1.4 g (87%); 322 (M+H).

reactant | 2-naphtho[1,2-b]furan-3-yl ethanol | 5 mmol, 1.06 g | O1C2=C(C(=C1)CCO)C=CC1=CC=CC=C12 | C14H12O2
reactant | triphenylphosphine | 6 mmol, 1.572 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodine | 6 mmol, 1.518 g | II | I2
reactant | imidazole | 6 mmol, 408 mg | N1C=NC=C1 | C3H4N2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-(2-iodo-ethyl)-naphtho[1,2-b]furan | ICCC=1C2=C(OC1)C1=CC=CC=C1C=C2 | C14H11IO
